reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[O:1]=[C:2]([C:7]([C:4](=[C:3]([H:10])[H:11])[C:5]([O:6][H:8])([H:12])[H:13])([H:14])[H:15])[H:9],47.864586165103795
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C@:2]([C:3]([H:11])([H:12])[H:13])([H:10])[N:4]1[H:14].[C:5](=[O:6])([H:8])[H:15],120.518519201294
[N:1](=[C:2](/[O:3][H:7])[C:4]([O:5][H:10])([H:8])[H:9])\[H:6]>>[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7],30.91853882093902
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:4][C:3](=[C:2]([H:11])[H:12])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],99.52560723878892
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C-:6]#[O+:7].[C:2](=[C:3]=[C:4]=[C:5]([H:11])[H:12])([H:9])[H:10].[O:1]([H:8])[H:13],68.2915055798855
[C:3](=[O:4])([C:5]#[N:6])[H:11].[H:7][H:12].[N:1](=[C:2]([H:9])[H:10])[H:8]>>[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],48.303458423225685
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],80.88448691848009
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[H:7][H:10].[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:8])[H:11])[H:9],95.5312435375128
[C:3](=[O:4])([H:10])[H:11].[C:5](#[N:6])[H:12].[O:1]([C:2]([H:8])([H:9])[H:13])[H:7]>>[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],66.57640133986169
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1]([N:4]([H:10])[H:11])([H:7])([H:8])[H:9].[N:2]#[C:3][C:5](=[O:6])[H:12],98.1723673586187
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](\[O:4][H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],63.5446182713885
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[O:3][C@@:5]([O:6][H:11])([H:14])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],48.583426658582795
[C:1]([N:2]([C:3]([C:4]#[N:5])=[C:6]=[N:7][H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],62.46114094949699
[C:1](=[C:2]([O:3][H:6])[C:4]#[C:5][H:9])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8],53.216850505433705
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:7]([C:5]([C:4]([C:3](=[C:2]([H:9])[H:10])[H:11])([H:12])[H:13])=[O:6])([H:14])[H:15])[H:8],85.0958679051063
[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4]([H:9])([H:11])[H:12])([H:6])([H:7])[H:8].[O:5]([H:10])[H:13],80.3621269168308
[C:1](=[C:2]([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])[H:9].[C:3]([H:8])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],93.5805074488331
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10]>>[C:1](=[O:2])([H:8])[H:9].[C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])=[C:6]=[C:7]([H:10])[H:17],43.0208504064616
[C:1](/[N:2]=[C:3](\[C:6]#[N:7])[H:12])([H:8])([H:9])[H:10].[C:4]=[N:5][H:11]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],32.955488797711396
[C:1](/[N:2]=[C:3](\[O+:4]=[C-:5][O:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](\[O:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],32.44977892994201
[C:1]([C@@:2]([C:3]#[C:4][H:11])([N+:6]#[C-:5])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]#[C:4][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],38.6875336259901
[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](\[O:7][C:6]([C:5]([C:4]([H:12])([H:14])[H:15])([H:16])[H:17])([H:18])[H:19])[H:13])[H:11])([H:8])([H:9])[H:10],106.62792804389
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]([H:10])[H:12])([H:7])([H:8])[H:9].[C:4](=[C:5]([O:6][H:11])[H:15])([H:13])[H:14],60.169130103458606
[O:1]([C:2]([C:3]([C:7]([C:5](=[C+:4][H:12])[O-:6])([H:14])[H:15])([H:11])[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],5.387275540073503
